US07777047B2
2-(benzylthio)-3-thiomorpholinopropan-1-amine
To a solution of tert-butyl [2-(benzylthio)-3-thiomorpholinopropyl]carbamate (21.46 g) in a mixed solvent of ethyl acetate (60 mL) and methanol (60 mL) was added hydrogen chloride-ethyl acetate solution (120 mL) at 0° C., and the mixture was stirred at room temperature for 4 hr. The reaction solution was concentrated, and the residue was partitioned between ethyl acetate and saturated aqueous potassium carbonate solution. The organic layer was washed with saturated brine, and dried over sodium sulfate, and the solvent was evaporated to give the title compound (14.41 g, yield 91%) as a yellow oil.

reactant | tert-butyl [2-(benzylthio)-3-thiomorpholinopropyl]carbamate | 21.46 g | C(C1=CC=CC=C1)SC(CNC(OC(C)(C)C)=O)CN1CCSCC1 | C19H30N2O2S2
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride-ethyl acetate | 120 mL | C(C)(=O)OCC.Cl
solvent | methanol | 60 mL | CO | CH4O
product | 2-(benzylthio)-3-thiomorpholinopropan-1-amine | 14.41 g, yield 91% | C(C1=CC=CC=C1)SC(CN)CN1CCSCC1 | C14H22N2S2
